US03952012
1-Methyl-5-(p-trifluoromethyl-benzoyl)-pyrrole-2acetonitrile:
A solution of 14.4 g. (0.12 mole) of 1-methylpyrrole-2-acetonitrile and 25 g. (0.12 mole) of p-trifluoromethylbenzoyl chloride in 120 ml. methylene chloride is chilled to -25°C. (external bath). Then 14 ml. (0.12 mole) stannic chloride is added dropwise over a half hour. The resultant suspension is permitted to come to room temperature and then poured into ice-dilute hydrochloric acid. The aqueous phase is separated and washed successively with N,N-dimethyl-1,3-propane-diamine, 3N hydrochloric acid and a saturated solution of sodium chloride. The solvent is evaporated and the product is isolated from the residual oil by column chromatography using acid washed alumina. The solvents hexane, benzene, and other are used as eluents. The first compound-bearing fraction not giving a positive Enrlich's test (in benzene) is collected. The solvent is evaporated and the resultant solid, 1-methyl-5-(p-trifluoromethyl-benzoyl)-pyrrole-2-acetonitrile, in purified by recrystallization in isopropanol, m.p. 95°-97.5°C.

reactant | 1-methylpyrrole-2-acetonitrile | 0.12 mole | CN1C(=CC=C1)CC#N | C7H8N2
reactant | p-trifluoromethylbenzoyl chloride | 0.12 mole | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methyl-5-(p-trifluoromethyl-benzoyl)-pyrrole-2acetonitrile | CN1C(=CC=C1C(C1=CC=C(C=C1)C(F)(F)F)=O)CC#N | C15H11F3N2O
